US04462931
An aqueous solution of hydrogen peroxide (2.8 mls) is added to a cuvette containing 0.0178 gram of the product of Example 1, 0.0859 gram of bis{2,4-dichloro-6-[(2-dimethylaminoethyl)methylsulfamoyl]phenyl}oxalate dihydrochloride, and 0.0221 gram of DECERESOL® Surfactant NI Conc. The materials are mixed thoroughly at ambient temperature to provide an initial concentration of 0.04M for the bis{2,6-dichloro-6-[(2-dimethylaminoethyl)methylsulfamoyl]phenyl}oxalate dihydrochloride, and a concentration of 0.01M for the product of Example 1. A comparison determination is also carried out without the surfactant. The results obtained are shown below.

reactant | hydrogen peroxide | 2.8 mls | OO | H2O2
reactant | bis{2,4-dichloro-6-[(2-dimethylaminoethyl)methylsulfamoyl]phenyl}oxalate dihydrochloride | 0.0859 gram | Cl.Cl.ClC1=C(C(=CC(=C1)Cl)S(N(C)CCN(C)C)(=O)=O)OC(C(=O)OC1=C(C=C(C=C1S(N(C)CCN(C)C)(=O)=O)Cl)Cl)=O
product | bis{2,6-dichloro-6-[(2-dimethylaminoethyl)methylsulfamoyl]phenyl}oxalate dihydrochloride | Cl.Cl.ClC=1C(C(C=CC1)(S(N(C)CCN(C)C)(=O)=O)Cl)OC(C(=O)OC1C(=CC=CC1(S(N(C)CCN(C)C)(=O)=O)Cl)Cl)=O | InChI=1S/C24H34Cl4N4O8S2.2ClH/c1-29(2)13-15-31(5)41(35,36)23(27)11-7-9-17(25)19(23)39-21(33)22(34)40-20-18(26)10-8-12-24(20,28)42(37,38)32(6)16-14-30(3)4;;/h7-12,19-20H,13-16H2,1-6H3;2*1H
